### PR TITLE
feat: add formations and their finite normal layers

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR opens the class-field-theory development with the objects everything downstream is stated about: an Artin–Tate **formation** in the topological form the roadmap fixes, its **levels**, and the **finite normal layers** of a formation. It serves Layer 1 of the `ClassFieldTheory` roadmap, "formations and finite normal layers", whose exit criterion asks that `Ĥ^r(U/V, A^V)`, `A^U / N_{U/V}(A^V)` and the layer's Galois group all be represented by named types and canonical maps.

A `Formation` on a topological group `G` is a smooth discrete topological representation over `ℤ`, and `Formation.level U` is the submodule `A^U` fixed by an open subgroup `U`. Keeping every level inside one ambient module is what makes the inclusion of one level into another and the norm between two levels maps of submodules of a fixed module; `Formation.exists_mem_level` records that smoothness is exactly the Artin–Tate condition that each element of `A` is fixed by a sufficiently small member of the distinguished family. A `NormalLayer` is a pair of open subgroups `V ≤ U` with `V` normal in `U`, with `Gal = U ⧸ V` finite when `G` is compact, `degree` its index, and `ofOpenNormal` the layers `V ◁ ⊤` whose Galois group `galOfOpenNormalEquiv` identifies with `G ⧸ V`.

The coefficient module `NormalLayer.rep` is the level `A^V` carrying the action of `U ⧸ V`: the `U`-action on `A^V` is well defined because `V` is normal in `U`, and `V` acts trivially, so it descends. It is built from `Representation.subrepresentation` and `Representation.ofQuotient` rather than from Mathlib's packaged `Rep.quotientToInvariants`, so that the underlying module of `rep` is *definitionally* `A^V`; the packaged functor produces the invariants of the restriction of `A` along `V ∩ U → U → G`, the same submodule of the ambient module but not the same term, and every later comparison would have to transport along that equality. On top of that, `invariants_rep` and `groundLevelEquiv` prove `(A^V)^{U/V} = A^U` — an equality of submodules of `A^V`, so the identification moves no element — and `norm`, `normSubgroup` and `NormQuotient` give `N_{U/V} : A^V → A^U`, its image, and `A^U / N_{U/V}(A^V)`, with the value of the norm computed as the sum of the Galois conjugates and, on a ground-level element, as multiplication by the degree.

The file closes by consuming the Layer-0 work already merged: `tateHZeroEquivNormQuotient` identifies `Ĥ⁰(U/V, A^V)` with the norm quotient, by transporting `TauCeti.TateCohomology.H0IsoNormQuotient` (added in #5639) along `groundLevelEquiv`. This is the degree-`0` half of the pair of low-degree identifications through which the Artin map of a class formation is read; the degree-`-2` half is `TauCeti.TateCohomology.HNegTwoAddEquivAbelianization`, already available at the layer's Galois group and so not restated here.

Both `G` and the coefficient module live in `Type`, because Mathlib's `tateCohomology` asks for the finite group, the coefficient ring `ℤ` and the coefficient module in one universe. `G` is profinite: `IsTopologicalGroup`, `CompactSpace` and `TotallyDisconnectedSpace` are hypotheses of both `Formation` and `NormalLayer`, exactly as the roadmap's `Suggested.lean` fixes them, so the Galois group of every layer is finite and its `degree` is a genuine index. The underlying `Rep ℤ G` is read through `Representation.ofDistribMulAction` at the action `TauCeti.TopRep.distribMulAction` derives from the operators of the topological representation, rather than through `ContRepresentation.toRepresentation`, because the latter carries the `Module ℤ` instance packaged inside `TopRep` and that is not the instance typeclass synthesis produces for an integral module. No Mathlib infrastructure is vendored.

New file: `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean` (394 lines).

**Layer-0 status.** Every Layer-0 output this PR consumes is already on `main`. The only one it uses at all is `TauCeti.TateCohomology.H0IsoNormQuotient` (`Ĥ⁰(G,M) ≃ M^G / N_G M`, merged in #5639); Mathlib supplies the Tate complex, `tateCohomology`, its functoriality, `δ`, the long exact sequence and `isoGroupCohomology`/`isoGroupHomology`, and `TauCeti/RepresentationTheory/Homological/TateCohomology/` already carries `HNegTwoAddEquivAbelianization`, positive-degree inflation with its comparison (#5809), two-periodicity for cyclic groups and the Herbrand quotient (#5764). No declaration in this PR needs the generic Tate theorem, the Tate cup product, or restriction/corestriction in general degrees.

After this PR, Layer 1 still owes the finite quotient system `subgroupLayer` with `subgroupGalEquiv`, `degree_subgroupLayer` and `subgroupRestriction`; the abelian layers `IsAbelianClassFieldLayer` and the maximal abelian sublayer; and the restriction, corestriction, refinement and conjugation adapters with their tower compatibility. Those adapters are deliberately not in this PR — they are separate topics, and the last of them will consume the Layer-0 res/cor item when it lands — but nothing delivered here anticipates or depends on them.

Roadmap: ClassFieldTheory

🤖 Prepared with Claude Code

### CODE REVIEW

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ correctness — now passing on `a5b96ce`.

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The formation, levels, finite quotient action, invariant identification, norm construction, and Tate H⁰ equivalence faithfully encode the stated mathematics; no semantic defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The PR adds genuinely layer-specific constructions while reusing Mathlib’s representation, invariants, quotient-action, norm, and Tate-cohomology APIs. `Formation` is a roadmap-required profinite specialization with substantial downstream consumers, not a compatibility-only duplicate. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a coherent first unit of Layer 1 and directly implements the roadmap’s formation, finite-normal-layer, cohomology-carrier, and norm-quotient API. Its only consumed Layer-0 result, `H0IsoNormQuotient`, is already present in `LowDegree.lean`; unfinished Layer-0 operations are not dependencies of this diff. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The file credits its central mathematical references and explicitly identifies the ClassFieldTheory roadmap’s README and `Suggested.lean` as provenance for the adapted signatures and constructions. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical formation and finite-layer interfaces are appropriately exposed, with opaque bodies, extensionality, characteristic lemmas, and suitable automation. The roadmap-required additive equivalence is present under its canonical name, with no obsolete duplicate surface. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The profinite hypotheses match the roadmap-defined scope and are semantically necessary for formations and finite normal layers. The remaining declarations are stated at their natural level. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations occupy the roadmap’s canonical Formation/Basic module, and each import directly supplies APIs used by the file. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their declarations, follow the roadmap and adjacent Mathlib conventions, use appropriate namespaces, and add no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The substantive file and its public API are documented accurately, with mathematical purpose, honest scope, and appropriate references. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and robust, with non-obvious definitional-equality arguments documented and exposed through named interface lemmas. No brittle proof chains, unjustified goal reshaping, or substantial unfactored reasoning were found. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...a5b96ceca4511f3dc628453cd1df60319f839a1f) at head `a5b96ce`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $8.82.</sub>

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `a465de8f1e77`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ reuse — now passing on `a5b96ce`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ scope — now passing on `a5b96ce`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ attribution — now passing on `a5b96ce`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ api-design — now passing on `a5b96ce`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ generality — now passing on `a5b96ce`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ documentation — now passing on `a5b96ce`.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: this reverses a change the `correctness` rubric required one round earlier on this same PR, and it removes a binder the roadmap fixes verbatim.

**The contradiction.** At round 1 (head `3bc86a02`, rubrics `afb424e`) `correctness` posted ⛔ **block**:

> The core structures omit the profinite/topological-group hypotheses, so they admit objects that are not formations or finite normal layers.
> `…/Formation/Basic.lean:108` — `Formation` and `NormalLayer` require only an arbitrary topology on `G`; consequently `Formation.smooth` does not ensure a continuous group action, and `NormalLayer` can have an infinite `Gal` whose advertised `degree` is `0`. _Fix:_ **Restore the roadmap's `IsTopologicalGroup G`, `CompactSpace G`, and `TotallyDisconnectedSpace G` assumptions on these structures**, or separate and accurately name generalized non-finite objects while keeping the canonical formation/layer API profinite.

(recoverable from this thread's GraphQL `userContentEdits`; commit `a465de8` "fix: assume G profinite in Formation and NormalLayer" is exactly that fix). On the **round-2 scoreboard that carries this generality finding**, `correctness` is ✅ and its summary is:

> The current definitions **enforce the required profinite hypotheses**, and the level, quotient action, invariants, norm, and Tate H⁰ identification faithfully formalize the roadmap objects.

So the same review round simultaneously approves the file *because* it carries `[TotallyDisconnectedSpace G]` and asks for that instance binder to be deleted. Complying would re-open the round-1 `correctness` block; the two cannot both hold.

**The roadmap pins the binder.** `TauCetiRoadmap/ClassFieldTheory/Suggested.lean` states both structures with exactly these four instance binders:

```lean
structure Formation (G : Type) [Group G] [TopologicalSpace G] [IsTopologicalGroup G]
    [CompactSpace G] [TotallyDisconnectedSpace G] where
…
structure NormalLayer (G : Type) [Group G] [TopologicalSpace G] [IsTopologicalGroup G]
    [CompactSpace G] [TotallyDisconnectedSpace G] where
```

and `ClassFieldTheory/README.md` §1 owns "the modern topological form of an Artin–Tate formation: **a profinite group** `G`, a discrete continuous `G`-module `A`, its levels `A^U` for open subgroups `U`, and finite normal layers `V ◁ U`". Profinite *is* compact + totally disconnected (+ Hausdorff) for a topological group; dropping the hypothesis does not generalize the roadmap's object, it names a different one.

**Not "visibly unused" in the sense that matters.** `Formation` is a bundled *definition*, not a theorem: its hypotheses fix which objects the structure denotes, and every downstream layer (class-formation axioms, fundamental classes, the Artin map) is stated over the same `G`. Total disconnectedness is what makes the open subgroups a neighbourhood basis of `1`, i.e. what makes the family of open subgroups the distinguished family of the Artin–Tate definition and `Formation.exists_mem_level` the Artin–Tate smoothness condition rather than a vacuous one — which is precisely the reading `correctness` blocked on. It is also the hypothesis under which the levels `A^U` exhaust `A`, so an unqualified `Formation G` for, say, a connected compact group would carry a single junk level.

I have therefore left both signatures as the roadmap fixes them. If the rubrics genuinely want the profinite assumption weakened, that is a change to `Suggested.lean`, which only a human may make.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: Layer 0 is not absent, and this PR consumes only the parts of it that are already merged on `main`.

`scope.md` asks: "When the cited target presupposes an earlier stage or layer of the same roadmap, **confirm that stage exists on `main` or in an open PR**." It does:

| Layer-0 item (`ClassFieldTheory/README.md` §4) | where it lives |
|---|---|
| 1. the Tate complex, `tateCohomology`, functoriality, `δ`, the long exact sequence, `isoGroupCohomology`, `isoGroupHomology` | Mathlib `Mathlib/RepresentationTheory/Homological/TateCohomology/Basic.lean` — Layer 0 item 4 says to port "**only what is genuinely missing**" |
| `Ĥ⁰(G,M) ≃ M^G / N_G M` | `TauCeti/RepresentationTheory/Homological/TateCohomology/LowDegree.lean`, `TateCohomology.H0IsoNormQuotient` (PR #5639, merged) |
| `Ĥ^{-2}(G,ℤ) ≃ G^ab` | same file, `TateCohomology.HNegTwoAddEquivAbelianization` |
| inflation in positive degrees and its comparison with ordinary inflation | `…/TateCohomology/Inflation.lean`, `TateCohomology.infl`, `infl_comp_isoGroupCohomology_hom` |
| two-periodicity for cyclic groups | `…/TateCohomology/Periodic.lean`, `TateCohomology.positivePeriodicIso` |

This PR uses exactly one of them — `H0IsoNormQuotient`, in `tateHZeroEquivNormQuotient` — and nothing else from Layer 0. It states **no** declaration that needs the generic Tate theorem or the restriction/corestriction package, and it does not anticipate them: every Layer-1 item that does need them (`LayerRestriction`, `cohomologyRes`/`cohomologyCor`, `tateRes`/`tateCor`, `cor ∘ res = [E:F]`, and tower compatibility) is deliberately **not** in this PR, and the description says so — "the restriction, corestriction, refinement and conjugation adapters with their tower compatibility — the last of which waits on the Layer-0 item that supplies restriction and corestriction in every Tate degree." So there is no material here built on an absent prerequisite; the dependency is "real and proximate" in the rubric's sense, and it is on merged code.

What the finding actually asks for is that *all* of Layer 0 land before *any* Layer-1 declaration. That is a stronger rule than the roadmap or the rubric states, and it cannot be satisfied without violating `scope.md`'s own "One topic per PR": Layer 0's remaining items (the Tate cup product in all bidegrees, res/cor in every degree, the Tate–Nakayama criterion) are several independent topics, none of which this PR's `Formation`, `level`, `Gal`, `rep`, `(A^V)^{U/V} = A^U` or `norm` depend on. Layer 1's own prerequisite line reads "*Prerequisites:* Layer 0; `ProfiniteCohomology` (smooth discrete modules); Mathlib open subgroups" — and the only Layer-0 output any declaration here touches is merged.

The delivered material is also squarely inside Layer 1's exit criterion — "`Ĥ^r(U/V,ℤ)`, `Ĥ^r(U/V,A^V)`, `A^U / N_{U/V}(A^V)`, `(U/V)^ab` are all represented by named types and canonical maps". The new commit adds the last of those missing names (`H`, `TateH`, `TrivialTateH`, `normQuotientMk`), so the PR now closes that half of the criterion outright rather than approaching it.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: the requested fix is the exact thing `documentation.md` — the rubric judging this same file, 🟡 on this same scoreboard — forbids.

`documentation.md` at the pinned rubrics commit `afb424e` says:

> The "why" is mathematical: what this material is for, what it feeds, what a reader needs to use it. **Roadmap targets, layer numbers, PR-process narrative and coordination status with in-flight upstream work do not belong in a module docstring**; they date badly and nothing updates them when the roadmap is reorganised. **Roadmap attribution belongs in the PR description, where the mandatory `Roadmap:` line records it.** Mathematical references stay in the file.

and its `request_changes` trigger includes "a docstring … about the project's process". A `## References` bullet naming `TauCetiRoadmap/ClassFieldTheory/{README.md,Suggested.lean}` "especially `Suggested.lean` **Layer 1**" is a roadmap target and a layer number in a module docstring, so complying here would put a fresh `documentation` finding into the file in the very round in which I am fixing `documentation`'s current one. The attribution the rubric set does ask for is present: the PR description carries the standalone line `Roadmap: ClassFieldTheory`, and the body names the roadmap, its Layer 1 and the exit criterion explicitly.

On the merits of `attribution.md` itself:

- **`Suggested.lean` is not a formalization this file adapts.** Its Layer-1 entries for the two constructions that carry any content are `sorry`: `def rep (F : Formation G) (L : NormalLayer G) : Rep ℤ L.Gal := sorry` and `def norm (F : Formation G) (L : NormalLayer G) : F.level L.top →+ F.level L.ground := sorry`. There is no proof, no construction and no design to launder — the roadmap states the *target*, and the mathematics here comes from the textbooks already credited (Artin–Tate ch. XIV, Neukirch III, Serre XI). `Formation.level` is even built differently from the sketch (a `Submodule` of one ambient module rather than a `Type`), precisely because the sketch does not decide that. The rubric's own guardrail applies: "Do not invent attribution requirements for routine work that draws on nothing in particular."
- **The file does credit formal sources where there are any.** Its Layer-0 dependency `TauCeti/RepresentationTheory/Homological/TateCohomology/LowDegree.lean` opens by crediting `kbuzzard/ClassFieldTheory` at a named commit, which is what a "closely adapted formalization" looks like in this repo. Nothing in this file is adapted from an existing formalization.
- Following a roadmap's declaration *names* is what every merged PR in this repo does; if that alone triggered `attribution`, the requirement would apply to the whole library, and `documentation.md` was amended (rubrics PR #119, `afb424e`) specifically to settle where that credit goes.

I have therefore kept the `## References` section mathematical and left the roadmap attribution in the PR description, as `documentation.md` directs.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: the file already uses Mathlib's packaged construction — `Rep.quotientToInvariants` *is* `ofQuotient (subrepresentation ρ _ le_comap_invariants) S`, and `rep` is `ofQuotient (subrepresentation …) L.relativeTop` built from the same two Mathlib pieces. No Mathlib logic is restated. What differs is the subgroup pair, and that difference is not cosmetic: the packaged version does not typecheck at the object Layer 1 needs.

**`Rep.quotientToInvariants` is for `S` normal in the acting group; here `V` is not normal in `G`.** Mathlib (`Mathlib/RepresentationTheory/Invariants.lean`) takes `ρ : Representation k G V`, `S : Subgroup G` `[S.Normal]` and produces a representation of `G ⧸ S` on `invariants (ρ.comp S.subtype)`. Applying it to a layer means restricting to the ground subgroup first and taking `S = L.relativeTop = V.subgroupOf U`, so the carrier is the invariants of `(ρ ∘ U.subtype) ∘ (V.subgroupOf U).subtype` — a `Submodule` indexed by `↥(V.subgroupOf U)`, not by `↥V`. That is a **different term** from `Formation.level V = invariants (ρ.comp V.subtype)`, and it is not definitionally equal. Checked against this PR's head:

```lean
example [L.relativeTop.Normal] :
    (Rep.quotientToInvariants (Rep.res L.ground.toSubgroup.subtype F.toRep) L.relativeTop).V =
      ModuleCat.of ℤ
        (Representation.invariants (F.toRep.ρ.comp L.top.toSubgroup.subtype)) := rfl
```
```
error: Type mismatch
  rfl
has type
  ?m = ?m
but is expected to have type
  ↑((Rep.res (↑L.ground).subtype F.toRep).quotientToInvariants L.relativeTop) =
    ↑(ModuleCat.of ℤ ↥(Representation.invariants (MonoidHom.comp F.toRep.ρ (↑L.top).subtype)))
```

whereas the definition in the PR satisfies it:

```lean
example : (L.rep F).V = ModuleCat.of ℤ (F.level L.top) := rfl   -- succeeds
```

**Why the mismatch is fatal rather than cosmetic.** The roadmap's Layer-1 exit criterion asks for the equality `(A^V)^{U/V} = A^U`, and this file delivers it as `invariants_rep`, an *equality of submodules of `A^V`*, from which `groundLevelEquiv` moves no element (`groundLevelEquiv_apply_coe` is `rfl`). With the packaged carrier, `(A^V)^{U/V} = A^U` is no longer even well-typed — the invariants live in a different subtype — so it becomes an isomorphism to be transported through, and `norm`, `normSubgroup`, `NormQuotient` and `tateHZeroEquivNormQuotient` each acquire a transport. `correctness` and `proof-quality` both approved the current arrangement, the latter citing "definitional-equality-dependent interfaces exposed through named lemmas", and the roadmap is explicit that the layer representation "is not a second coefficient module" (`Suggested.lean`, `NormalLayer.rep`).

**The only bespoke lemma is not an instance of a Mathlib one.** `level_top_le_comap` is the analogue of Mathlib's `Representation.le_comap_invariants`, but that lemma requires `S.Normal` **in the acting group** and quantifies over all `g : G`; here `V` is normal only in `U`, `V ⋬ G`, so it does not apply — its proof step `Subgroup.Normal.conj_mem'` is unavailable. The nine-line proof in the file is the `V ◁ U` statement, and it is exactly the extra mathematics a layer needs.

The suggested "linear equivalence identifying its invariant carrier with `F.level L.top`" is the transport the implementation note in the file exists to avoid; adding it would give two carriers for one object (a `reuse` problem in its own right) with no lemma gained.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed in `329701c`, with one deliberate deviation noted below.

1. **Section-wide `@[expose]` removed.** No definition body is public any more; the build is green without it. Every definition a consumer must compute with has a characterization lemma: `mem_level`, `degree_eq_natCard_gal`, `ground_ofOpenNormal`, `top_ofOpenNormal`, `toRep_ρ_apply`, `groundRep_apply_coe`, `rep_ρ_mk_apply_coe`, `groundLevelEquiv_apply_coe`, `norm_apply_coe`, `mem_normSubgroup`, plus the three new ones below. The definitional design point survives — checked from a separate module against the new head:

   ```lean
   example : (L.rep F).V = ModuleCat.of ℤ (F.level L.top) := rfl        -- succeeds
   example : L.TateH F 0 = tateCohomology (L.rep F) 0 := rfl            -- succeeds
   ```

2. **The named carriers and the quotient map are added**: `NormalLayer.H`, `NormalLayer.TateH`, `NormalLayer.TrivialTateH` and `NormalLayer.normQuotientMk` (with `normQuotientMk_apply`), and `tateHZeroEquivNormQuotient` is now stated as `L.TateH F 0 ≅ ModuleCat.of ℤ (L.NormQuotient F)`. I also added `tateHZeroEquivNormQuotient_hom_H0π`, which computes that identification on the class of an invariant, so the `def` never has to be unfolded downstream.

   *Deviation:* the three carriers are `ModuleCat ℤ`-valued rather than `Type`-valued as in `Suggested.lean`. `tateCohomology` and `groupCohomology` are `ModuleCat`-valued in Mathlib, and the degree-zero identification is an iso in `ModuleCat ℤ`; a `Type`-valued abbreviation would force the statement through `ModuleCat.of ℤ ↥(…)`, i.e. a round trip through the coercion. `ModuleCat` still coerces to a sort, so the roadmap's later signatures (`big.TateH F r →+ small.TateH F r`) read unchanged, and the module structure is kept rather than thrown away. Happy to flip them if the pinned signature is meant literally.

3. **`galOfOpenNormalEquiv_mk`** added, computing the equivalence on `QuotientGroup.mk`. I did **not** add the `symm` companion: its natural statement needs `(ofOpenNormal V).ground = ⊤` unfolded at a membership proof (`⟨g, trivial⟩`), which is exactly the body exposure point 1 removes — the forward `@[simp]` lemma plus `ground_ofOpenNormal` covers the same ground.

`lake build` and `lake exe axioms` are green (`all within the allowlist [propext, Classical.choice, Quot.sound]`), as are `scripts/lint-style.sh`, `scripts/lint-env.sh` and `scripts/lint-dot-notation.py`; the new `@[simp]` lemmas raise no `simpNF` violation.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed in `329701c`: the `NormQuotient` docstring no longer asserts the identification for every `Formation`. It now reads

> It is the group that the Artin map of a *class formation* — a formation whose layers satisfy the axioms on `H¹` and `H²`, which a bare `Formation` does not assume — identifies with the abelianization of the Galois group of the layer.

For the record in case the rubrics revisit the `## References` block: it deliberately contains only the mathematical sources (Artin–Tate, Neukirch, Serre) and **no** roadmap or layer bullet, per this rubric's "Roadmap targets, layer numbers … do not belong in a module docstring. Roadmap attribution belongs in the PR description". The `attribution` rubric asked in this same round for the roadmap to be added there; that has been contested on its own thread rather than complied with, so that this file does not oscillate between the two.

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `329701cb971f`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `329701c`; this clears the finding ✅ — approved on `329701c`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945418023.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `329701c`; the finding stands — The PR is a coherent Layer 1 unit, but it starts that layer before its explicit Layer 0 prerequisite is complete.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945416367.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `329701c`; the finding stands — The central roadmap blueprint is acknowledged in the PR description but not credited in the code.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945417076.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `329701c`; the finding stands — The core objects are exposed coherently, but characteristic computation rules are incomplete or not registered for simplification.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945418925.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `generality` —** re-reviewed on `329701c`; this clears the finding ✅ — approved on `329701c`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945415615.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `329701c`; this clears the finding ✅ — approved on `329701c`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945418975.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed the first finding in `4199345`; contesting the second, with the repo's own linter gate as evidence.

**1. `groundLevelEquiv.symm` — fixed.** `NormalLayer.groundLevelEquiv_symm_apply_coe` is added next to the forward lemma, so the ambient value of the inverse is available without unfolding:

```lean
@[simp]
theorem groundLevelEquiv_symm_apply_coe (y : F.level L.ground) :
    ((((L.groundLevelEquiv F).symm y : (L.rep F).ρ.invariants) : F.level L.top) : F.toRep.V) =
      (y : F.toRep.V) :=
  (rfl)
```

`scripts/lint-env.sh` accepts it (no `simpNF` violation).

**2. `@[simp]` on `toRep_ρ_apply` and `rep_ρ_mk_apply_coe` — cannot be done: both are `simpNF` violations, and CI fails on them.** I tried exactly the requested change and ran the repo's environment-linter gate (`scripts/lint-env.sh`, which runs Mathlib's default `#lint` set including `simpNF`) on the result:

```
lint-env: NEW violation(s) not in the grandfathered baseline (as '<linter> <declaration>'):
  [simpNF]
  #check @TauCeti.ClassFieldTheory.Formation.toRep_ρ_apply /- simp can prove this:
    by simp only [*, @Representation.ofDistribMulAction_apply_apply, @TopRep.distribMulAction_smul]
  One of the lemmas above could be a duplicate.
  If that's not the case try reordering lemmas or adding @[priority]. -/

  #check @TauCeti.ClassFieldTheory.NormalLayer.rep_ρ_mk_apply_coe /- Left-hand side simplifies from
    ↑(((L.rep F).ρ ↑u) x)
  to
    ↑(((L.groundRep F) u) x)
  using
    simp only [*, @Representation.ofQuotient_coe_apply]
  Try to change the left-hand side to the simplified term! -/

::error::lint-env: 2 new violation(s); see the list above
LINT-ENV: FAIL — 2 new violation(s); see the list above
```

(With the two attributes removed and only the new `symm` lemma kept, the same script reports `LINT-ENV: PASS — no new violations`.)

What the linter is saying is also the answer to the finding's concern — *routine calculations through the public representation API already normalize automatically*, which is why these two lemmas are redundant as simp lemmas rather than missing ones:

* `toRep_ρ_apply` is provable by `simp` from the Mathlib/TauCeti lemmas `Representation.ofDistribMulAction_apply_apply` and `TopRep.distribMulAction_smul`, which are already `@[simp]`. Adding it duplicates an existing simp path.
* `rep_ρ_mk_apply_coe`'s left-hand side is *not* in simp normal form: `Representation.ofQuotient_coe_apply` (already `@[simp]`) rewrites `((L.rep F).ρ ↑u) x` to `(L.groundRep F u) x`, and the file's existing `@[simp] groundRep_apply_coe` then finishes the job to `F.toRep.ρ (u : G) x` — exactly the right-hand side of `rep_ρ_mk_apply_coe`. So the composite the finding asks for is already simp-normalizable, through the parallel `groundRep_apply_coe` the finding cites as the model. The lemma remains as a named non-`simp` characterization for the one-step form.

The only ways to force the attribute through would be `@[nolint simpNF]` plus an entry in `scripts/lint-nolints-allowlist.txt`, or `set_option linter.… false` — both of which are silencing a linter to satisfy a review finding, and the allowlist file is human-owned. I have therefore left the two attributes off and kept the redundant-but-named lemmas as they were.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Complied in `4199345`. The module `## References` block now ends with

```
* `Suggested.lean` of the TauCeti `ClassFieldTheory` roadmap, the blueprint whose signatures for
  the two structures below and for the level, layer representation and norm constructions this
  file follows.
```

It is written as a bare source credit: it names the blueprint file and the roadmap it belongs to, and deliberately contains **no roadmap target, no layer number, no PR-process narrative and no coordination status with in-flight work** — the four things `documentation.md` at the pinned rubrics commit `afb424e` excludes from a module docstring. That is the narrowest form I can find that satisfies this rubric's "a central, non-obvious source is named in the description but not the code" without re-opening the `documentation` finding that was cleared on `329701c` in the same round this one fired.

Recording the tension for the next round rather than re-litigating it: `documentation.md` says "Roadmap targets, layer numbers, PR-process narrative and coordination status with in-flight upstream work do not belong in a module docstring … Roadmap attribution belongs in the PR description, where the mandatory `Roadmap:` line records it. Mathematical references stay in the file." If `documentation` now objects to this bullet as roadmap attribution in a module docstring, the two rubrics cannot both be satisfied in the file, and I will contest that thread with this reply quoted rather than deleting the credit again.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting again, with the evidence the first reply lacked: the Layer-0 stage is not merely "not absent", it is **substantially merged**, and the sentence this finding quotes has been removed from the PR description because it was about future Layer-1 work, not about anything delivered here.

**What the rubric asks.** `scope.md` @ `afb424e`: "When the cited target presupposes an earlier stage or layer of the same roadmap, **confirm that stage exists on `main` or in an open PR**." The test is that the stage *exists*, not that it is finished; the verdict line is "when the PR builds for a stage whose stated prerequisite stage is **absent**".

**Layer 0 is not absent.** `ClassFieldTheory/README.md` §4 Layer 0 is an *audit-and-complete* layer whose item 4 is explicitly "Port or prove, in the generic supplier, **only what is genuinely missing**". Against its own bullet list:

| Layer-0 item | where it lives, today |
|---|---|
| item 1: Tate complex, `tateCohomology`, functoriality, `δ`, long exact sequence, `isoGroupCohomology`, `isoGroupHomology` | Mathlib `Mathlib/RepresentationTheory/Homological/TateCohomology/Basic.lean` — genuinely not missing, so item 4 asks for nothing |
| `Ĥ⁰(G,M) ≃ M^G / N_G M` | `TauCeti/…/TateCohomology/LowDegree.lean`, `TateCohomology.H0IsoNormQuotient` (#5639, merged) |
| `Ĥ^{-2}(G,ℤ) ≃ G^ab` | same file, `TateCohomology.HNegTwoAddEquivAbelianization` (merged) |
| inflation in positive degrees + comparison with ordinary inflation | `…/TateCohomology/Inflation.lean`, `infl`, `infl_comp_isoGroupCohomology_hom` (#5809, merged) |
| two-periodicity for cyclic groups | `…/TateCohomology/Periodic.lean`, `positivePeriodicIso` (merged) |
| Herbrand quotient and its calculations | merged (#5764) |

What remains of Layer 0 is the Tate cup product in all bidegrees, res/cor in every degree, and the Tate–Nakayama criterion. **This PR uses none of them.** It uses exactly one Layer-0 output — `H0IsoNormQuotient`, in `tateHZeroEquivNormQuotient` — and that is merged on `main`.

**The quoted evidence is gone, because it was misread.** The finding's stated ground is "the PR itself says restriction and corestriction in every Tate degree remain outstanding". That sentence was in the *forward-looking* paragraph listing what Layer 1 still owes **after** this PR — `subgroupLayer`, the abelian layers, and the res/cor/refinement adapters — none of which is in this diff. It described a future PR's dependency, not this one's. I have rewritten the description so it cannot be read that way: it now opens that paragraph with an explicit **Layer-0 status** block stating that every Layer-0 output this PR consumes is already on `main`, and says of the adapters that "nothing delivered here anticipates or depends on them".

**And the demand cannot be met without breaking `scope.md` itself.** Reading the finding literally — all of Layer 0 before any Layer-1 declaration — Layer 0's three remaining items are three independent topics (a cup product with associativity, graded commutativity, naturality and the projection formula; res/cor in every Tate degree with `cor ∘ res = [G:H]`; the Tate/Tate–Nakayama criterion). Landing them together with `Formation`, `level`, `Gal`, `rep`, `(A^V)^{U/V} = A^U` and `norm` is precisely the "several unrelated targets at once" that this same rubric's Single-topic section says to `block`. So the finding as written asks for a PR the rubric would reject.

**Advancement, not membership.** The rubric also asks whether the target itself is getting closer. Layer 1's exit criterion is that `Ĥ^r(U/V,ℤ)`, `Ĥ^r(U/V,A^V)`, `A^U / N_{U/V}(A^V)` and `(U/V)^ab` "are all represented by named types and canonical maps". This PR names three of the four outright (`TrivialTateH`, `TateH`, `NormQuotient` with `normQuotientMk`), and the fourth is `Abelianization L.Gal` on the named `Gal`; it also supplies the degree-zero comparison `tateHZeroEquivNormQuotient` between two of them. That is the target's own statement moving, not periphery accumulating around it.

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `4199345`; this clears the finding ✅ — approved on `4199345`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945745149.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `4199345`; this clears the finding ✅ — approved on `4199345`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945744106.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `4199345`; this clears the finding ✅ — approved on `4199345`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945743639.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed in `e0f6096`: the `Suggested.lean` roadmap bullet is deleted from the module `## References`; the three textbook references stay, and the `Roadmap: ClassFieldTheory` line stays in the PR description, as `documentation.md` (rubrics `afb424e`) directs.

Recording the round history here in advance, not to contest this finding but so the file is on record if `attribution` re-fires next round. On the **same scoreboard** at head `4199345` — the one this finding was posted in — `attribution` **approved** with the bullet present:

> ✅ attribution — approved — *The source credits the central mathematical references and explicitly identifies the ClassFieldTheory roadmap's `Suggested.lean` as the blueprint followed.*

and `documentation` requested its removal in that same table. Both cannot hold at once. `documentation.md` at `afb424e` is explicit that this one wins:

> Roadmap targets, layer numbers, PR-process narrative and coordination status with in-flight upstream work do not belong in a module docstring … Roadmap attribution belongs in the PR description, where the mandatory `Roadmap:` line records it. Mathematical references stay in the file.

So the bullet is gone. If `attribution` asks for it back on the next round, that request is answered by the quotation above plus its own approval of the very commit that carried it; the roadmap's `Suggested.lean` states signatures the file follows, which is credited by the mandatory `Roadmap:` line, and it contains no proof or construction the file adapts.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `e0f6096780d8`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

Two public convenience lemmas duplicate generic Mathlib API without adding layer-specific content.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:395` — `mem_normSubgroup` merely restates `LinearMap.mem_range`, and `normQuotientMk_apply` at line 411 merely restates `Submodule.mkQ_apply`. _Fix:_ Delete both wrapper lemmas and use `LinearMap.mem_range` and `Submodule.mkQ_apply` directly at call sites.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 56s · 243.5k in / 1.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e0f6096780d8e105c0f624f150aea425811fd1ad) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The work advances the formation/normal-layer target as one coherent unit, but it starts Layer 1 before Layer 0’s required exit stage exists.

- `:0` — Layer 1 explicitly requires Layer 0, but the repository has no `tateTheorem`, `tateIso`, `nakayamaNegTwo`, or `artinEquiv`; only selected Layer-0 suppliers have landed. _Fix:_ Land the remaining Layer-0 exit-criterion declarations first (or identify an open PR providing them), then rebase this Layer-1 work.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 47s · 209.2k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e0f6096780d8e105c0f624f150aea425811fd1ad) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md)</sub>

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The canonical constructor does not accept Mathlib's bundled open normal subgroups, and key bundled objects and action reductions lack expected public API support.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:204` — `ofOpenNormal` takes an `OpenSubgroup` plus a typeclass, so downstream roadmap terms with `V : OpenNormalSubgroup G` cannot use `ofOpenNormal V` directly. _Fix:_ Take `V : OpenNormalSubgroup G` and use `V.toOpenSubgroup`, matching the canonical bundled Mathlib API and roadmap.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:112` — `Formation` and `NormalLayer` expose no extensionality lemmas, blocking routine equality proofs for these foundational bundled objects. _Fix:_ Add `@[ext]` lemmas reducing `Formation` equality to `module` equality and `NormalLayer` equality to equality of `ground` and `top`.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:130` — Characteristic reduction lemmas `toRep_ρ_apply`, `rep_ρ_mk_apply_coe`, and `degree_eq_natCard_gal` are not tagged `@[simp]`, forcing consumers to unfold or manually rewrite canonical actions and degree. _Fix:_ Mark these three terminating normal-form lemmas `@[simp]`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 55s · 177.4k in / 1.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e0f6096780d8e105c0f624f150aea425811fd1ad) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The module documentation misstates the representation of the invariant and ground levels.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:31` — The `groundLevelEquiv` overview says both sides are submodules of the ambient formation module, but `(L.rep F).ρ.invariants` is a submodule of `F.level L.top`; the declaration at line 313 is an equivalence between nested subtype carriers. _Fix:_ Say that both sides represent the same ambient elements, or that the invariants and the comapped ground level are submodules of `A^V`, rather than claiming both are ambient submodules.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 51s · 132.9k in / 1.8k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e0f6096780d8e105c0f624f150aea425811fd1ad) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

**Comment by ldct** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and statements faithfully model formations, finite normal layers, quotient actions, invariant ground levels, layer norms, and degree-zero Tate cohomology. No semantic correctness defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The layer-specific API adds genuinely new material while reusing the applicable Mathlib and TauCeti constructions; no material duplication was found. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently advances the ClassFieldTheory roadmap’s Layer-1 formation and finite-normal-layer target. Its direct Layer-0 dependency, `H0IsoNormQuotient`, is present in the tree, while the remaining Layer-0 operations are needed only by later adapters absent from this single-topic PR. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The file credits the roadmap blueprint in a provenance note, cites the central mathematical sources, and relies on an already attributed low-degree Tate construction. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical formation and finite-layer interfaces are appropriately exposed, extensional, opaque where needed, and equipped with sufficient characteristic and simplification lemmas. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations sit at the roadmap’s natural profinite, integral-module level; no materially unused or overly strong assumptions or duplicated special-case proofs were found. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations occupy the roadmap’s canonical ClassFieldTheory/Formation home, and each import directly supports the file’s formation, open-subgroup, or low-degree Tate-cohomology API. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | The degree-zero comparison is named as an equivalence despite being a categorical isomorphism, contrary to the adjacent Mathlib terminology. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The current module and declaration documentation accurately describe the added formations, finite normal layers, coefficient representations, cohomology carriers, and norm constructions; the earlier profinite overclaim has been removed. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and readable; definitional-equality dependencies are exposed through named lemmas and the nontrivial norm coercion is explicitly documented. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...f978a6673b8ccb4a36b42eeeec10bbafce3590f6) at head `f978a66`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $6.85.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `e0f6096`; the finding stands — Two public convenience lemmas duplicate generic Mathlib API without adding layer-specific content.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945418023.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `e0f6096`; the finding stands — The work advances the formation/normal-layer target as one coherent unit, but it starts Layer 1 before Layer 0’s required exit stage exists.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945745149.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `e0f6096`; this clears the finding ✅ — approved on `e0f6096`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945744106.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `e0f6096`; the finding stands — The canonical constructor does not accept Mathlib's bundled open normal subgroups, and key bundled objects and action reductions lack expected public API support.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945743639.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `generality` —** re-reviewed on `e0f6096`; this clears the finding ✅ — approved on `e0f6096`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945415615.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `e0f6096`; the finding stands — The module documentation misstates the representation of the invariant and ground levels.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945876515.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: neither lemma is a restatement — the two Mathlib lemmas the finding names **do not apply** downstream, because `normSubgroup` and `normQuotientMk` are `def`s whose bodies are not exposed. That opacity is deliberate and is what `api-design` approved on this same head ("their implementation bodies remain opaque, and the characteristic maps and simplification lemmas needed for the delivered surface are present"); deleting these two lemmas would leave the surface with no way to see through either def.

Evidence, from a scratch module importing this file at head `e0f6096` (the head this finding was posted on) and doing exactly what the suggested fix says — using `LinearMap.mem_range` and `Submodule.mkQ_apply` directly at a call site:

```lean
example (y : F.level L.ground) : y ∈ L.normSubgroup F ↔ ∃ x, L.norm F x = y := by
  rw [LinearMap.mem_range]
```
```
error: Tactic `rewrite` failed: Did not find an occurrence of the pattern
  ?m ∈ LinearMap.range ?m
in the target expression
  y ∈ L.normSubgroup F ↔ ∃ x, (L.norm F) x = y
```

```lean
example (x : F.level L.ground) : L.normQuotientMk F x = Submodule.Quotient.mk x := by
  rw [Submodule.mkQ_apply]
```
```
error: Tactic `rewrite` failed: Did not find an occurrence of the pattern
  (Submodule.mkQ ?p) ?x
in the target expression
  (L.normQuotientMk F) x = Submodule.Quotient.mk x
```

`simp` fares no better — the linter reports the suggested lemma as an *unused* simp argument and the goal survives:

```
⊢ y ∈ L.normSubgroup F ↔ ∃ a, ∃ (b : a ∈ F.level L.top), (L.norm F) ⟨a, b⟩ = y
error: This simp argument is unused: LinearMap.mem_range
⊢ (L.normQuotientMk F) x = Submodule.Quotient.mk x
error: This simp argument is unused: Submodule.mkQ_apply
```

and even `Iff.rfl` fails, with Lean naming the reason outright:

```
error: Type mismatch
  Iff.rfl
has type ?m ↔ ?m
but is expected to have type y ∈ L.normSubgroup F ↔ ∃ x, (L.norm F) x = y

Note: The following definitions were not unfolded because their definition is not exposed:
  NormalLayer.normSubgroup ↦ 13
```

So `mem_normSubgroup` and `normQuotientMk_apply` carry content no Mathlib lemma supplies at these terms: they are the *characterization* lemmas that expose what the two unexposed defs are, exactly as `mem_level` does for `level` and `degree_eq_natCard_gal` does for `degree`. This is the pattern `reuse.md` distinguishes from duplication — the underlying Mathlib fact is used in the one-line proof, not restated — and the alternative the fix implies (marking the two defs `@[expose]`, or turning them into `abbrev`s) is precisely what `api-design` asked to be removed two rounds ago and what its current approval of this head rests on.

The push at `e526f5a` keeps both lemmas and changes nothing else about them.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: the four declarations the finding names are **Layer 3 and Layer 4** declarations whose own signatures take `Formation` and `NormalLayer` as arguments. Demanding them before this PR is circular — they cannot be stated until this PR lands.

**1. The names are not Layer-0 outputs.** `ClassFieldTheory/README.md` §3 assigns them, and `Suggested.lean` states them, thus:

```lean
noncomputable def tateTheorem (F : Formation G) (L : NormalLayer G) (u : L.H F 2)
    (_h1 : ∀ H : Subgroup L.Gal, Subsingleton ((L.subgroupLayer H).H F 1))
    (_hcard : ∀ H : Subgroup L.Gal, Nat.card ((L.subgroupLayer H).H F 2) = Nat.card H)
    (_hgen : ∀ (H : Subgroup L.Gal) (x : (L.subgroupLayer H).H F 2), ∃ m : ℤ, …)
    (r : ℤ) : L.TrivialTateH r ≃+ L.TateH F (r + 2)
```

`Formation`, `NormalLayer`, `L.Gal`, `L.H`, `L.TateH`, `L.TrivialTateH` are Layer-1 objects — the ones this PR defines. `tateIso` is `ClassFormation.tateIso` (README §3, "Tate's theorem for the class formation"), `nakayamaNegTwo` and `artinEquiv` are `ClassFormation.*`; the README's own headers put them in **Layer 3: Tate's theorem for a class formation** (*Prerequisites: Layers 0, 1, 2*) and **Layer 4: the abstract Artin map** (*Prerequisites: Layer 3*). They depend on Layer 1, not the other way round.

**2. What Layer 0's exit criterion actually says.** "`Suggested.lean` states `tateTheorem`, `tateIso`, `nakayamaNegTwo`, and `artinEquiv` using imported Tate groups and imported cup products, **with no locally defined cohomology object**." That is a *hygiene* condition on where the cohomology in those later statements comes from — no home-grown `tateH` — not a demand that Layer 0 produce declarations of those names. Layer 0 itself is an audit-and-complete layer ("Port or prove, in the generic supplier, **only what is genuinely missing**"), and this PR defines no cohomology object of its own: `H`, `TateH` and `TrivialTateH` are `groupCohomology` and `tateCohomology` applied to `L.rep F`, i.e. exactly the imported carriers that criterion asks for.

**3. The stage does exist, as `scope.md` requires.** `scope.md` @ `afb424e`: "confirm that stage exists on `main` or in an open PR"; the failure verdict is for a prerequisite stage that is **absent**. Against Layer 0's own bullet list:

| Layer-0 item | where it lives, today |
|---|---|
| Tate complex, `tateCohomology`, functoriality, `δ`, LES, `isoGroupCohomology`, `isoGroupHomology` | Mathlib `Mathlib/RepresentationTheory/Homological/TateCohomology/Basic.lean` — genuinely not missing |
| `Ĥ⁰(G,M) ≃ M^G / N_G M` | `TauCeti/…/TateCohomology/LowDegree.lean`, `TateCohomology.H0IsoNormQuotient` (#5639, merged) |
| `Ĥ^{-2}(G,ℤ) ≃ G^ab` | same file, `TateCohomology.HNegTwoAddEquivAbelianization` (merged) |
| inflation in positive degrees + comparison | `…/TateCohomology/Inflation.lean` (#5809, merged) |
| two-periodicity for cyclic groups | `…/TateCohomology/Periodic.lean` (merged) |
| Herbrand quotient | merged (#5764) |

What is left of Layer 0 is the Tate cup product, res/cor in every degree, and the Tate–Nakayama criterion. **This PR consumes exactly one Layer-0 output — `H0IsoNormQuotient`, in `tateHZeroEquivNormQuotient` — and it is merged on `main`.** No declaration here needs the cup product, res/cor, or the Tate criterion; the Layer-1 adapters that will need them are deliberately not in this diff.

**4. The same rubric, same judge model, same rubrics sha, has already accepted this.** On the scoreboard at head `4199345` (`afb424e`, `codex/gpt-5.6-sol`), after the two replies above this one on the earlier thread: "✅ scope — approved — *The PR directly advances the roadmap's Layer-1 formation and finite-normal-layer API as one coherent unit. Its actual Layer-0 dependency is the already-present degree-zero Tate identification; the unfinished Layer-0 operations are only needed by later Layer-1 adapters absent from this PR.*" Nothing in the one commit since (`e0f6096`, deleting a roadmap bullet from the module docstring at `documentation`'s request) touched that reasoning.

**5. The literal demand also breaks `scope.md`'s own single-topic rule.** Landing the cup product in all bidegrees, res/cor in every Tate degree with `cor ∘ res = [G:H]`, and the Tate–Nakayama criterion together with `Formation`, `level`, `Gal`, `rep`, `(A^V)^{U/V} = A^U` and `norm` is the "several unrelated targets at once" the same rubric says to `block` — and, per point 1, `tateTheorem` could not be in that PR at all except after `Formation` and `NormalLayer` are defined in it.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Two of the three findings are fixed in `e526f5a`; the third is fixed for `degree_eq_natCard_gal` and contested for the other two lemmas, with the repo's own linter gate as evidence.

**1. `ofOpenNormal` now takes `OpenNormalSubgroup G` — fixed.** This also matches the roadmap's pinned signature (`ClassFieldTheory/Suggested.lean`: `def ofOpenNormal (V : OpenNormalSubgroup G) : NormalLayer G` with `top := V.toOpenSubgroup`):

```lean
def ofOpenNormal (V : OpenNormalSubgroup G) : NormalLayer G where
  ground := ⊤
  top := V.toOpenSubgroup
  …
```

`ground_ofOpenNormal`, `top_ofOpenNormal` (now `= V.toOpenSubgroup`), `galOfOpenNormalEquiv` and `galOfOpenNormalEquiv_mk` follow; the typeclass argument is gone, since `OpenNormalSubgroup.isNormal'` supplies the instance.

**2. `@[ext]` on both structures — fixed.** Checked from a separate module at the new head, the generated lemmas are exactly the two the finding asks for:

```
@Formation.ext    : ∀ {G} … {x y : Formation G},    x.module = y.module → x = y
@NormalLayer.ext  : ∀ {G} … {x y : NormalLayer G},  x.ground = y.ground → x.top = y.top → x = y
```

**3. `@[simp]`: `degree_eq_natCard_gal` is now tagged; `toRep_ρ_apply` and `rep_ρ_mk_apply_coe` cannot be, because they are `simpNF` violations and CI fails on them.** I made exactly the requested change to all three and ran the repo's environment-linter gate (`scripts/lint-env.sh`, which runs Mathlib's default `#lint` set including `simpNF`) on the result:

```
lint-env: NEW violation(s) not in the grandfathered baseline (as '<linter> <declaration>'):
  [simpNF]
  #check @TauCeti.ClassFieldTheory.Formation.toRep_ρ_apply /- simp can prove this:
    by simp only [*, @Representation.ofDistribMulAction_apply_apply, @TopRep.distribMulAction_smul]
  One of the lemmas above could be a duplicate. -/

  #check @TauCeti.ClassFieldTheory.NormalLayer.rep_ρ_mk_apply_coe /- Left-hand side simplifies from
    ↑(((L.rep F).ρ ↑u) x)
  to
    ↑(((L.groundRep F) u) x)
  using
    simp only [*, @Representation.ofQuotient_coe_apply]
  Try to change the left-hand side to the simplified term! -/

::error::lint-env: 2 new violation(s); see the list above
LINT-ENV: FAIL — 2 new violation(s); see the list above
```

With only `degree_eq_natCard_gal` tagged (what is pushed), the same script reports `LINT-ENV: PASS — no new violations`.

What the linter is saying is also the answer to the finding's concern — *consumers already normalize these canonical actions automatically*, which is why the two attributes are redundant rather than missing:

* `toRep_ρ_apply` is provable by `simp` from `Representation.ofDistribMulAction_apply_apply` and `TopRep.distribMulAction_smul`, both already `@[simp]`;
* `rep_ρ_mk_apply_coe`'s left-hand side is not in simp normal form: `Representation.ofQuotient_coe_apply` (already `@[simp]`) rewrites `((L.rep F).ρ ↑u) x` to `(L.groundRep F u) x`, and this file's `@[simp] groundRep_apply_coe` finishes to `F.toRep.ρ (u : G) x` — the right-hand side of `rep_ρ_mk_apply_coe`. The composite is already simp-normalizable, through the parallel lemma the finding cites as its model.

Both stay as named, non-`simp` characterization lemmas for the one-step form. Forcing the attribute through would need `@[nolint simpNF]` plus an entry in the human-owned `scripts/lint-nolints-allowlist.txt`, or `set_option linter.… false` — silencing a linter to satisfy a review finding.

`lake build` (10621 jobs) and `lake exe axioms` are green on `e526f5a` (`all within the allowlist [propext, Classical.choice, Quot.sound]`), as are `scripts/lint-style.sh`, `scripts/lint-env.sh` and `scripts/lint-dot-notation.py`.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed in `e526f5a`. The overview bullet no longer claims both sides are submodules of the ambient module; it now says where they really live:

```text
* `groundLevelEquiv`, the identification `(A^V)^Γ = A^U` of the invariants of the coefficient
  module with the ground level. Both sides are read inside `A^V` — the invariants of `Γ` and the
  ground level comapped along `A^V ⊆ A` are the same submodule of `A^V` — so the identification
  does not move an element of the ambient module.
```

That matches the declarations: `invariants_rep : (L.rep F).ρ.invariants = (F.level L.ground).comap (F.level L.top).subtype`, an equality of submodules of `A^V`, and `groundLevelEquiv_apply_coe`, which is `rfl` in the ambient module. The docstring on `invariants_rep` ("Both sides are read inside the top level `A^V`") already said this and is unchanged.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `e526f5a1a5bf`.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `e526f5a1a5bf`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The PR advances the Layer 1 target coherently, but Layer 1’s mandatory Layer 0 prerequisite is not yet present.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:147` — This begins Layer 1 while its stated prerequisite Layer 0 remains incomplete. _Fix:_ Land or identify an open PR completing Layer 0’s generic Tate theorem, all-degree cup product, and restriction/corestriction API before this Layer 1 work.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 61s · 247k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e526f5a1a5bf4f29c2971947ac81a1d2c5249194) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md)</sub>

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 attribution — request_changes  `codex/gpt-5.6-sol`

The code omits credit for the human roadmap whose declaration design it closely follows.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:91` — The references credit textbooks but not the ClassFieldTheory roadmap/Suggested.lean that centrally determined this API. _Fix:_ Add `TauCetiRoadmap/ClassFieldTheory/README.md` and `Suggested.lean` to the module references or provenance note.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 40s · 98.9k in / 850 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e526f5a1a5bf4f29c2971947ac81a1d2c5249194) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md)</sub>

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The public action API is present but its two canonical computation lemmas are missing the automation annotation needed to use the representations without unfolding them.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:132` — `toRep_ρ_apply` and `rep_ρ_mk_apply_coe` (line 291) are unannotated characteristic action lemmas, so `simp` cannot normalize either the underlying formation action or the quotient action. _Fix:_ Add `@[simp]` to both lemmas, matching `groundRep_apply_coe` and the other canonical coercion/application rules in this file.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 58s · 132.9k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...e526f5a1a5bf4f29c2971947ac81a1d2c5249194) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `e526f5a`; this clears the finding ✅ — approved on `e526f5a`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946619257.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `e526f5a`; the finding stands — The PR advances the Layer 1 target coherently, but Layer 1’s mandatory Layer 0 prerequisite is not yet present.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946622119.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `e526f5a`; the finding stands — The public action API is present but its two canonical computation lemmas are missing the automation annotation needed to use the representations without unfolding them.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946623515.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `e526f5a`; this clears the finding ✅ — approved on `e526f5a`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946624084.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting a third time, and this round the evidence is the pipeline's own record: **this rubric, at this rubrics sha, with this judge model, already approved this PR's Layer-0 position — and nothing that could bear on it has changed since.**

**1. The approval.** Scoreboard at head `4199345` (rubrics `afb424e`, run `r-20260907T005621Z-5853-scope-a18af9`, `codex/gpt-5.6-sol`), verdict `approve`:

> The PR directly advances the roadmap's Layer-1 formation and finite-normal-layer API as one coherent unit. **Its actual Layer-0 dependency is the already-present degree-zero Tate identification; the unfinished Layer-0 operations are only needed by later Layer-1 adapters absent from this PR.**

and the thread reply on this same thread, comment 3945858492: "re-reviewed on `4199345`; this clears the finding ✅ — approved on `4199345`."

**2. What changed after that approval.** Exactly two commits, neither touching a Layer-0 dependency, a `Formation`/`NormalLayer` declaration's mathematical content, or the PR's position in the layer order:

| commit | diff |
|---|---|
| `e0f6096` "docs: drop the roadmap blueprint bullet from the module references" | −3 lines, all inside the module docstring's `## References` block, at `documentation`'s request |
| `e526f5a` "feat: take a bundled open normal subgroup in `ofOpenNormal`" | `ofOpenNormal (V : OpenNormalSubgroup G)` instead of `(V : OpenSubgroup G) [V.toSubgroup.Normal]`, at `api-design`'s request |

So the finding is now firing on a head that differs from an approved head by a deleted docstring bullet and one argument type. That is rubric non-determinism, not a change in the PR's prerequisites.

**3. The substance, unchanged and unrebutted.** `scope.md` @ `afb424e` asks that a presupposed earlier stage "exists on `main` or in an open PR"; its failure verdict is for a prerequisite stage that is **absent**. Layer 0 is an audit-and-complete layer ("Port or prove, in the generic supplier, **only what is genuinely missing**"), and against its own bullet list:

| Layer-0 item | where it lives, today |
|---|---|
| Tate complex, `tateCohomology`, functoriality, `δ`, LES, `isoGroupCohomology`, `isoGroupHomology` | Mathlib `Mathlib/RepresentationTheory/Homological/TateCohomology/Basic.lean` — genuinely not missing |
| `Ĥ⁰(G,M) ≃ M^G / N_G M` | `TauCeti/…/TateCohomology/LowDegree.lean`, `TateCohomology.H0IsoNormQuotient` (#5639, merged) |
| `Ĥ^{-2}(G,ℤ) ≃ G^ab` | same file, `TateCohomology.HNegTwoAddEquivAbelianization` (merged) |
| inflation in positive degrees + comparison with ordinary inflation | `…/TateCohomology/Inflation.lean` (#5809, merged) |
| two-periodicity for cyclic groups | `…/TateCohomology/Periodic.lean` (merged) |
| Herbrand quotient | merged (#5764) |

**This PR consumes exactly one Layer-0 output — `H0IsoNormQuotient`, used once, in `tateHZeroEquivNormQuotient` — and it is merged on `main`.** No declaration in the diff mentions a cup product, a restriction/corestriction map, or the Tate–Nakayama criterion; the Layer-1 adapters that will need them are deliberately not in this diff, and the description's **Layer-0 status** block says so.

**4. The literal demand is unsatisfiable under this same rubric.** "Land or identify an open PR completing Layer 0's generic Tate theorem, all-degree cup product, and restriction/corestriction API before this Layer 1 work" bundles three independent topics (a cup product with associativity, graded commutativity, naturality and the projection formula; res/cor in every Tate degree with `cor ∘ res = [G:H]`; the Tate/Tate–Nakayama criterion) — and `tateTheorem` itself cannot be stated at all before this PR, because `Suggested.lean` states it as `(F : Formation G) (L : NormalLayer G) … : L.TrivialTateH r ≃+ L.TateH F (r + 2)`, over the very objects this PR defines. Requiring it first is circular; requiring the rest in one PR is the "several unrelated targets at once" that this rubric's single-topic section says to `block`.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Complied in `7a878f1`, in the one place that does not re-open `documentation`'s finding on the same file: the credit is now a plain `--` **provenance note** immediately under the module docstring, naming `TauCetiRoadmap/ClassFieldTheory/README.md` and `Suggested.lean` as the blueprint whose signatures this file follows. That is the second of the two forms this finding offers ("Add … to the module references **or provenance note**"), and it keeps the roadmap out of the module docstring, which is what `documentation.md` @ `afb424e` polices.

Recording the round history, because the two rubrics have now been in exact anti-phase over this one `## References` bullet on this one file:

| round / head | `attribution` | `documentation` | file state |
|---|---|---|---|
| `4199345` (scoreboard 00:58Z) | ✅ approved — "The source credits the central mathematical references and explicitly identifies the ClassFieldTheory roadmap's `Suggested.lean` as the blueprint followed." | 🟡 — "`Formation/Basic.lean:95` — The References section cites `Suggested.lean` … _Fix:_ Remove the `Suggested.lean` roadmap bullet; keep roadmap attribution in the PR description." | bullet **present** |
| `e0f6096` (comment 3945992731, 01:47Z) | ✅ approved on `e0f6096` | (removal accepted) | bullet **removed**, by commit `e0f6096` "docs: drop the roadmap blueprint bullet from the module references" |
| `e526f5a` (scoreboard 08:58Z) | 🟡 — "`Formation/Basic.lean:91` — The references credit textbooks but not the ClassFieldTheory roadmap/Suggested.lean" | ✅ approved | bullet **still removed** — `git diff e0f6096 e526f5a` touches only `ofOpenNormal`'s argument type; the `## References` block is byte-identical to the block this rubric approved at `e0f6096` |

So this rubric approved the roadmap-free `## References` block one round ago and asks for the bullet back on a head whose references section did not change. Rather than restore the exact three lines `documentation` had removed — which would put its finding straight back into the file — the credit is placed outside the docstring:

```lean
-- Provenance: the signatures of the two structures below, and of `level`, `rep`, `norm` and the
-- cohomology carriers, follow the blueprint `Suggested.lean` of the Tau Ceti `ClassFieldTheory`
-- roadmap (`TauCetiRoadmap/ClassFieldTheory/README.md` and `Suggested.lean`).
```

It names both files the fix asks for, carries no roadmap target, no layer number, no PR-process narrative and no coordination status with in-flight work — the four things `documentation.md` excludes — and it is not a docstring at all, so it is not module documentation. If either rubric still objects, the objection is to the other rubric's requirement rather than to the file, and I will contest with this table rather than move the credit a third time.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: the requested attribute makes CI fail, on both lemmas, and I re-ran the check at this head — including the `@[priority]` route the linter itself suggests.

**1. Plain `@[simp]` on both, as the fix asks.** `scripts/lint-env.sh` runs Mathlib's default `#lint` set (including `simpNF`) over the library and is a required check; with the two attributes added it reports:

```
#check @TauCeti.ClassFieldTheory.Formation.toRep_ρ_apply /- simp can prove this:
  by simp only [*, @Representation.ofDistribMulAction_apply_apply, @TopRep.distribMulAction_smul]
One of the lemmas above could be a duplicate.
If that's not the case try reordering lemmas or adding @[priority]. -/

#check @TauCeti.ClassFieldTheory.NormalLayer.rep_ρ_mk_apply_coe /- Left-hand side simplifies from
  ↑(((L.rep F).ρ ↑u) x)
to
  ↑(((L.groundRep F) u) x)
using
  simp only [*, @Representation.ofQuotient_coe_apply]
Try to change the left-hand side to the simplified term! -/
```

(Reproduced this round on top of `e526f5a` with a driver `import TauCeti.NumberTheory.ClassFieldTheory.Formation.Basic` + `#lint only simpNF in TauCeti`; with the attributes removed the same driver prints `-- Found 0 errors … All linting checks passed!`.)

**2. `@[simp high]` — the priority route — fails identically.** I tried it, since a priority sometimes clears a simpNF "left-hand side simplifies" report; here it does not, and the linter output is byte-identical for both lemmas. So there is no attribute spelling that satisfies the linter.

**3. Why that is the right answer for the mathematics, not just for the linter.**

* `toRep_ρ_apply` states `F.toRep.ρ g x = F.module.ρ g x`, and `simp` already proves that goal outright from `Representation.ofDistribMulAction_apply_apply` and `TopRep.distribMulAction_smul`, both already `@[simp]` upstream — checked directly:

  ```lean
  example (g : G) (x : F.toRep.V) : F.toRep.ρ g x = F.module.ρ g x := by simp   -- succeeds
  ```

  So the "underlying formation action" the finding wants normalized is already normalized by `simp` without this lemma; adding the attribute registers a duplicate rewrite, which is exactly what the linter reports.

* `rep_ρ_mk_apply_coe`'s left-hand side is **not** simp-normal: `Representation.ofQuotient_coe_apply` is already `@[simp]` upstream and rewrites `((L.rep F).ρ ↑u) x` to `(L.groundRep F u) x`. The lemma is a one-step `rfl` characterization of the quotient action *at the un-normalized term*, which is what makes it useful to a human writing `rw`, and what makes it wrong as a simp lemma. The linter's own suggested repair — "change the left-hand side to the simplified term" — turns it into the already-`@[simp]` `groundRep_apply_coe`, i.e. into a duplicate of the lemma this finding cites as the model.

**Correction to my previous reply on this point.** I said there that the composite `((L.rep F).ρ ↑u) x → (L.groundRep F u) x → F.toRep.ρ ↑u x` closes under `simp` via `groundRep_apply_coe`. Tracing it (`set_option trace.Meta.Tactic.simp.unify true`) shows `simp` never even attempts `groundRep_apply_coe` on that goal: all three of these lemmas are `rfl` at reducible transparency across `abbrev`s (`toRep`, `groundRep`, `rep`), so `simp` sees both sides as the same term and has nothing to rewrite, while `rw [groundRep_apply_coe]` does close it. That does not change the conclusion — it sharpens it: these are `rfl`-across-`abbrev` characterization lemmas, the class of lemma `simp` cannot use and `simpNF` rejects, and the way to compute with the actions is either `rw`/`exact` with the named lemma or plain `simp` through the upstream `@[simp]` set, both of which work today without unfolding any definition of this file.

The only ways to force the attribute through would be `@[nolint simpNF]` plus an entry in the human-owned `scripts/lint-nolints-allowlist.txt`, or `set_option linter.simpNF false` — silencing a linter to satisfy a review finding. I have therefore left the two attributes off.

For the record, this same rubric at this rubrics sha accepted this argument once already: scoreboard at head `4199345` (run `r-20260907T005659Z-5853-api-design-f0121f`), "✅ api-design — approved — *The canonical formation and finite-layer interfaces are appropriately exposed, their implementation bodies remain opaque, and the characteristic maps and simplification lemmas needed for the delivered surface are present.*", and thread comment 3945858824. Nothing about these two lemmas has changed since.

`lake build` (10621 jobs), `lake exe axioms`, `scripts/lint-style.sh`, `scripts/lint-env.sh` and `scripts/lint-dot-notation.py` are all green at the head this reply is posted on.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `7a878f179913`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ scope — now passing on `f978a66`.

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ api-design — now passing on `f978a66`.

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### ✅ documentation — now passing on `f978a66`.

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `7a878f1`; the finding stands — The PR directly advances one coherent Layer-1 topic, but it starts that layer before the roadmap’s required Layer 0 is complete.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951513796.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `7a878f1`; this clears the finding ✅ — approved on `7a878f1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951513921.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7a878f1`; the finding stands — Two canonical action-evaluation lemmas are missing simplifier annotations, leaving routine uses of the public representation adapters dependent on manual rewriting.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951514027.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting this reversal because it directly contradicts the prior scope approval at https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3945246683. That approved round concluded: **“Its actual Layer-0 dependency is the already-present degree-zero Tate identification; the unfinished Layer-0 operations are only needed by later Layer-1 adapters absent from this PR.”** The current finding instead treats the Layer-0 exit names as implementations that must precede Layer 1.

The roadmap text shows why that reading is circular. The Layer-0 exit criterion says **“Suggested.lean states”** `tateTheorem`, `tateIso`, `nakayamaNegTwo`, and `artinEquiv`; those signatures are already present in the roadmap. The implementation plan later assigns the generic `tateTheorem` and `tateIso` to Layer 3 (§4 lines 719–748), after `Formation` from Layer 1 and `ClassFormation` from Layer 2, and assigns `nakayamaNegTwo` and `artinEquiv` to Layer 4 (§4 lines 750–794). Requiring those implementations before Layer 1 would require declarations whose types depend on the Layer-1 and Layer-2 structures before those structures exist.

The scope rubric asks whether the prerequisite stage **exists** and requests changes when it is **absent**, not whether every later implementation named by the roadmap blueprint has landed. Layer 0 exists substantially on `main`: `TateCohomology.H0IsoNormQuotient` and `HNegTwoAddEquivAbelianization` are in `LowDegree.lean`; `infl` and `infl_comp_isoGroupCohomology_hom` are in `Inflation.lean`; cyclic two-periodicity is in `Periodic.lean`; and the Herbrand quotient has its own supplier file. This PR imports and consumes only `H0IsoNormQuotient`, in `tateHZeroEquivNormQuotient`. Thus the prior approval correctly distinguished the real merged dependency from later Layer-1/3/4 work, and the requested sequencing is impossible under the roadmap dependency graph.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting with a fresh empirical check on the current head. I added exactly the requested `@[simp]` attributes temporarily and ran `lake env lean TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean` with `#lint only simpNF` appended to that module. It failed with:

```
Found 2 errors in 61 declarations ... with 1 linters
#check @TauCeti.ClassFieldTheory.Formation.toRep_ρ_apply /- simp can prove this:
  by simp only [*, @ofDistribMulAction_apply_apply, @TopRep.distribMulAction_smul]
One of the lemmas above could be a duplicate.
#check @TauCeti.ClassFieldTheory.NormalLayer.rep_ρ_mk_apply_coe /- Left-hand side simplifies from
  ↑(((L.rep F).ρ ↑u) x)
to
  ↑(((L.groundRep F) u) x)
using
  simp only [*, @ofQuotient_coe_apply]
Try to change the left-hand side to the simplified term!
```

This reproduces the earlier evidence at https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3945246812: routine simplification already works through the existing lower-level simp lemmas, so marking these composite named characterizations duplicates an existing simp path and violates `simpNF`. The attributes have been removed again. The repository forbids silencing the linter, so the requested fix cannot be made.

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `7a878f1`; this clears the finding ✅ — approved on `7a878f1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951926803.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7a878f1`; this clears the finding ✅ — approved on `7a878f1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951926901.</sub>

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `f978a6673b8c`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

The degree-zero comparison is named as an equivalence despite being a categorical isomorphism, contrary to the adjacent Mathlib terminology.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:440` — `tateHZeroEquivNormQuotient` returns `L.TateH F 0 ≅ ModuleCat.of …`, so `Equiv` misleadingly names a categorical `Iso`; the companion theorem at line 449 inherits the mismatch. _Fix:_ Rename it to `tateHZeroIsoNormQuotient` and rename `tateHZeroEquivNormQuotient_hom_H0π` accordingly.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 51s · 164.6k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/09f7e87b1c4e23f91699918a74d12c91d55f7e36...f978a6673b8ccb4a36b42eeeec10bbafce3590f6) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md)</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `128c915`; the finding stands — `Formation` duplicates the already packaged smooth-discrete representation type.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946619257.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `128c915`; this clears the finding ✅ — approved on `128c915`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951926803.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `128c915`; this clears the finding ✅ — approved on `128c915`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951513921.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `128c915`; the finding stands — The finite-layer API omits the roadmap’s canonical additive equivalence for degree-zero Tate cohomology, exposing only a differently named categorical isomorphism.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951926901.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `128c915`; this clears the finding ✅ — approved on `128c915`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946624084.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting the requested deletion because it conflicts directly with the human-owned roadmap contract and would regress already-approved scope, API-design, naming, and documentation judgments.

1. `TauCetiRoadmap/ClassFieldTheory/README.md` §3, **Frozen public interface**, explicitly maps “formation” to the public name `Formation`. Layer 1 likewise says to “Define the topological form of `Formation`”, and §6 says that `Suggested.lean` contains the `Formation` structure.
2. `TauCetiRoadmap/ClassFieldTheory/Suggested.lean:91-98` concretely declares `structure Formation` with projections `module` and `smooth`. Deleting `Formation` and parameterizing the layer API directly by the generic supplier type would remove the exact roadmap-required domain API. This repository cannot rewrite the human-owned roadmap to make that deletion valid.
3. The current implementation already performs maximal reuse: `Formation` is an `abbrev` whose body is exactly `SmoothDiscreteTopRep ℤ G`; `Formation.module` and `Formation.smooth` are also `abbrev`s reducing exactly to `.obj` and `.property`. There is no second structure, constructor, stored field, theorem, or conversion. The full build confirms this definition elaborates as written: `Build completed successfully (10621 jobs).`

The generic `SmoothDiscreteTopRep` supplier makes sense beyond profinite groups, while the roadmap-defined formation interface requests the profinite hypotheses used by the finite-layer theory. Commit `5124d2ec3a` now states explicitly in the declaration documentation that the two types are definitionally identical and no second representation bundle is introduced.

Thus the proposed fix would trade a claimed reuse improvement for a direct violation of the frozen roadmap/API contract. The present definitional abbreviation is the smallest implementation satisfying both reuse and that contract. The axiom audit also remains clean: `axioms: audited 102236 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting: this is not a compatibility alias, and the fix as written does not compile — and the compilable version of it deletes API that two other rubrics required on this same PR. All checks below were run at the current head `5124d2e`.

**1. What the rubric condemns, and what this is.** `reuse.md` @ `afb424e` says to "Treat **compatibility-only** aliases, wrapper declarations, forwarding import modules, deprecated shims, and duplicate theorem names as unnecessary duplication", and immediately before the verdict: "Not every hit is a defect: … **a specialization with genuine consumers can earn its place**." `Formation` is not a compatibility artifact — no earlier revision ever carried that name — it is the `ℤ`-coefficient, `Type`-universe, *profinite* specialization the roadmap blueprint fixes, and it has genuine consumers: `TauCetiRoadmap/ClassFieldTheory/Suggested.lean` states 35 later signatures over `Formation G` (`structure ClassFormation … (F : Formation G)`, `cupClass (F : Formation G) …`, `tateHZeroEquivNormQuotient (F : Formation G) …`, `localFormation`, `globalFormation`, the res/cor/refinement adapters), and 22 of them project `F.level`.

**2. The located "canonical name" is itself an abbreviation of exactly this shape.** `TauCeti/RepresentationTheory/Homological/ContCohomology/SmoothDiscrete.lean:537`:

```lean
abbrev SmoothDiscreteTopRep : Type _ :=
  ObjectProperty.FullSubcategory (fun X : TopRep.{w} R G ↦ IsSmoothDiscrete R X)
```

`SmoothDiscreteTopRep R G` is itself "a second public name for exactly" a Mathlib construction, merged as the domain-specific name that makes the API readable. `Formation G` stands in the same relation to it, one domain further in, and adds three instance binders that it does not have.

**3. The fix as written does not compile: `F.level`, `F.toRep`, `F.mem_level` stop elaborating.** Parameterizing the layer API "directly by `SmoothDiscreteTopRep ℤ G`" is not a rename. Both `Formation` and `SmoothDiscreteTopRep` are `abbrev`s, so generalized field notation resolves through to Mathlib's structure. Checked at this head:

```lean
example {G : Type} [Group G] [TopologicalSpace G] [IsTopologicalGroup G] [CompactSpace G]
    [TotallyDisconnectedSpace G] (F : SmoothDiscreteTopRep.{0, 0, 0} ℤ G) (U : OpenSubgroup G) :
    True := by
  have := F.level U
  trivial
```

```
error(lean.invalidField): Invalid field `level`: The environment does not contain
  `CategoryTheory.ObjectProperty.FullSubcategory.level`, so it is not possible to project the
  field `level` from an expression
  F
of type
  ObjectProperty.FullSubcategory fun X => IsSmoothDiscrete ℤ X
```

(The same error appears for `toRep`, `mem_level`, `level_antitone`; running the whole file through the requested transformation produces one per site.) There are 71 such projections in this file — `F.level` ×35, `F.toRep` ×31, `F.mem_level` ×4, `F.level_antitone` ×1 — plus the roadmap's own. Keeping them would mean declaring class-field-theory declarations (`level`, `toRep`, `exists_mem_level`) in **Mathlib's** `CategoryTheory.ObjectProperty.FullSubcategory` namespace, which `placement` and `naming` would reject; dropping them means rewriting all 71 sites to `Formation.level F …` inside a `Formation` namespace that no longer has a `Formation`.

**4. The compilable version deletes the profinite hypotheses `correctness` ⛔-blocked to require.** With `F : SmoothDiscreteTopRep ℤ G` the three instance binders are mentioned by no statement, so Lean's auto-inclusion linter fires — and this package builds with `warningAsError = true` (`lakefile.toml:37`). Reproduced at this head with the probe `theorem probe (F : SmoothDiscreteTopRep.{0, 0, 0} ℤ G) : F.obj = F.obj := rfl` under the file's section variables:

```
warning: automatically included section variable(s) unused in theorem `probe`:
  [IsTopologicalGroup G]
  [CompactSpace G]
  [TotallyDisconnectedSpace G]
consider restructuring your `variable` declarations so that the variables are not in scope or
explicitly omit them:
  omit [IsTopologicalGroup G] [CompactSpace G] [TotallyDisconnectedSpace G] in theorem ...

Note: This linter can be disabled with `set_option linter.unusedSectionVars false`
```

The repo forbids silencing a linter, so the only building form of the requested fix is `omit …` on every level lemma: the formation API would then require nothing of `G` beyond a topology. Round 1 of this PR was ⛔-blocked by `correctness` for precisely that — "`Formation` and `NormalLayer` require only an arbitrary topology on `G` … _Fix:_ Restore the roadmap's `IsTopologicalGroup G`, `CompactSpace G`, and `TotallyDisconnectedSpace G` assumptions on these structures" — and `correctness` then approved the fix commit `a465de8` with "The current definitions **enforce the required profinite hypotheses**". The `Formation` binder list is the only place those hypotheses are attached to the object; deleting the name deletes them.

**5. The projection wrappers are what `api-design` required on this PR.** At head `e0f6096`, https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3945246812 requested: "`Formation` and `NormalLayer` expose no extensionality lemmas, blocking routine equality proofs for these foundational bundled objects. _Fix:_ Add `@[ext]` lemmas **reducing `Formation` equality to `module` equality** and `NormalLayer` equality to equality of `ground` and `top`." `Formation.module` and `@[ext] Formation.ext` are that fix, and `api-design` approved them (✅ on `f978a66`). `smooth` is the blueprint's second field name and has a consumer, `exists_mem_level`. Deleting the two accessors satisfies this finding by re-opening that one.

So the duplication the finding is aimed at — a second bundled data structure holding a module and a smoothness proof — no longer exists: since `7b279ee` the structure is gone and `Formation G` *is* `SmoothDiscreteTopRep.{0, 0, 0} ℤ G`, reusing the bundle, its category instances and every lemma about smooth discrete objects verbatim. What remains is a name that carries the profinite hypotheses, supplies the class-field-theory namespace that 71 projections in this file and 22 in the blueprint are written against, and is required by the roadmap that `attribution` obliged this file to credit (`7a878f1`).

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Already fixed, in `7b279ee` (this thread's finding was judged at `128c915`; the head is now `5124d2e`). The public surface is the roadmap's additive equivalence, and no `Iso`-named duplicate is retained.

`TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:452`:

```lean
/-- **Degree-zero Tate cohomology of a finite normal layer is its norm quotient.** This is the
low-degree identification that the Artin map of a class formation is read through. -/
def tateHZeroEquivNormQuotient : L.TateH F 0 ≃+ L.NormQuotient F :=
  (TateCohomology.H0IsoNormQuotient (L.rep F) ≪≫
    (Submodule.Quotient.equiv _ _ (L.groundLevelEquiv F)
      (L.map_groundLevelEquiv_submoduleOf F)).toModuleIso).toLinearEquiv.toAddEquiv
```

which is `Suggested.lean`'s pinned signature

```lean
noncomputable def tateHZeroEquivNormQuotient (F : Formation G) (L : NormalLayer G) :
    L.TateH F 0 ≃+ L.NormQuotient F
```

read with `L` as the first (dot-notation) argument, exactly as the rest of the layer API in this file is. The conversion is the one the fix names, `… .toLinearEquiv.toAddEquiv` on the `ModuleCat ℤ` isomorphism, and the computation lemma was renamed with it to `tateHZeroEquivNormQuotient_H0π` (line 460):

```lean
@[simp]
theorem tateHZeroEquivNormQuotient_H0π (x : (L.rep F).ρ.invariants) :
    L.tateHZeroEquivNormQuotient F (TateCohomology.H0π (L.rep F) x) =
      L.normQuotientMk F (L.groundLevelEquiv F x)
```

`grep -rn 'tateHZero' TauCeti/` returns only these two declarations and the `## Main statements` bullet, so no compatibility name survives. `lake build` and `lake exe axioms` are green at `5124d2e` (`all within the allowlist [propext, Classical.choice, Quot.sound]`).

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Fixed, and recording why the name reads `Equiv` again so that this does not oscillate.

This finding was raised at `f978a66`, where the declaration was `def tateHZeroEquivNormQuotient : L.TateH F 0 ≅ ModuleCat.of ℤ (L.NormQuotient F)` — a categorical `Iso` named `Equiv`, which is the mismatch the finding identifies. It was fixed in `128c915` by the requested rename to `tateHZeroIsoNormQuotient`.

One round later, `api-design` (https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3945246812) required the *type* to change: "`tateHZeroIsoNormQuotient` does not provide the named `tateHZeroEquivNormQuotient : L.TateH F 0 ≃+ L.NormQuotient F` consumed by the roadmap's Nakayama and Artin-map interfaces. _Fix:_ Replace this public surface with `tateHZeroEquivNormQuotient`, converting the existing `ModuleCat` isomorphism via `.toLinearEquiv.toAddEquiv` … do not retain a duplicate compatibility name." That landed in `7b279ee`, so at the current head `5124d2e` the declaration is

```lean
def tateHZeroEquivNormQuotient : L.TateH F 0 ≃+ L.NormQuotient F :=
  (TateCohomology.H0IsoNormQuotient (L.rep F) ≪≫ … ).toLinearEquiv.toAddEquiv
```

with the companion `tateHZeroEquivNormQuotient_H0π`. The type is now an `AddEquiv`, not an `Iso`, so `Equiv` is the accurate word by this rubric's own criterion and matches Mathlib's `HNegTwoAddEquivAbelianization` / `Submodule.Quotient.equiv` usage; the `Iso` spelling now belongs only to the Mathlib-side `TateCohomology.H0IsoNormQuotient` it is built from. No `tateHZeroIso…` name is retained (`grep -rn 'tateHZero' TauCeti/`).

**Comment by kim-em** [comment]
🔍 Review in progress — `codex` reviewing `5124d2ec3ab3`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The work is a coherent part of Layer 1, but it starts that layer before its explicit Layer-0 prerequisite is complete.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:109` — This begins Layer 1 while the roadmap’s prerequisite Layer 0 is absent: the generic Tate cup product/theorem and general-degree restriction/corestriction have not landed. _Fix:_ Land or identify open prerequisite work completing Layer 0 before adding the formation layer.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 58s · 251k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...5124d2ec3ab355c9011276c0bdb06bfdad68201a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md)</sub>

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The public Layer-1 surface is incomplete, and two action evaluation lemmas lack the expected simplification annotations.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:470` — The module ends without the roadmap-required finite quotient system or abelian-layer API, leaving later class-formation declarations without their canonical interfaces. _Fix:_ Add `subgroupLayer`, `subgroupGalEquiv`, `degree_subgroupLayer`, `subgroupRestriction`, `relativeDegree_subgroupRestriction`, the restricted-representation identification, `IsAbelianClassFieldLayer` and its quotient characterizations, and `maximalAbelianLayer` with its stated universal property.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:146` — The characteristic action evaluation rules `toRep_ρ_apply` and `rep_ρ_mk_apply_coe` (line 305) are not tagged `@[simp]`, unlike the parallel `groundRep_apply_coe`. _Fix:_ Mark both evaluation lemmas `@[simp]` so downstream proofs normalize the constructed representation actions without unfolding implementation bodies.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 44s · 101.7k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...5124d2ec3ab355c9011276c0bdb06bfdad68201a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 generality — request_changes  `codex/gpt-5.6-sol`

The core types unnecessarily bake ambient profiniteness into APIs whose data and most operations do not use it.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:123` — `Formation` requires `IsTopologicalGroup`, `CompactSpace`, and `TotallyDisconnectedSpace` although its body is only `SmoothDiscreteTopRep`; `NormalLayer` at line 182 similarly embeds assumptions absent from its fields, and `TotallyDisconnectedSpace` is unused throughout the file. _Fix:_ Define `Formation` and `NormalLayer` under only the assumptions needed by their data, then add `IsTopologicalGroup`/`CompactSpace` locally to `instFiniteGal` and finite-cohomology/norm declarations; omit `TotallyDisconnectedSpace` until a result uses it.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 66s · 170.4k in / 1.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...5124d2ec3ab355c9011276c0bdb06bfdad68201a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md)</sub>

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The public API is documented, but one declaration docstring embeds roadmap/process provenance that will become stale.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:115` — The `Formation` docstring describes the abbreviation as “the roadmap's domain-specific name,” which is project-process provenance rather than mathematical documentation. _Fix:_ Remove the roadmap sentence and describe only the mathematical relationship to `SmoothDiscreteTopRep`; keep roadmap attribution in the PR description.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 48s · 105.6k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...5124d2ec3ab355c9011276c0bdb06bfdad68201a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new formation, level, finite-layer representation, norm, and Tate-degree-zero identification faithfully model the roadmap objects; no semantic defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The PR adds domain-specific layer objects and canonical maps without duplicating a directly reusable Mathlib or TauCeti declaration; existing quotient-invariants and low-degree Tate APIs are reused where their types fit. |
| 🟡 | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | changes requested | `codex/gpt-5.6-sol` | The work is a coherent part of Layer 1, but it starts that layer before its explicit Layer-0 prerequisite is complete. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The file credits the roadmap blueprint for its declaration design and identifies the central Artin–Tate, Neukirch, and Serre sources in its public documentation; no uncredited vendored or closely adapted formalization is evident. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The public Layer-1 surface is incomplete, and two action evaluation lemmas lack the expected simplification annotations. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | changes requested | `codex/gpt-5.6-sol` | The core types unnecessarily bake ambient profiniteness into APIs whose data and most operations do not use it. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations are naturally placed in the roadmap-prescribed ClassFieldTheory/Formation topic, and all three imports directly support APIs used by the file. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names follow the roadmap and adjacent Mathlib terminology, accurately describe their declarations, and add no notation. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | The public API is documented, but one declaration docstring embeds roadmap/process provenance that will become stale. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and readable, with definitional-equality-sensitive steps documented or exposed through explicit interface lemmas. No material proof-quality issues found. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a25bee83b0d4e9def0de586b084e5e09408bc44d...5124d2ec3ab355c9011276c0bdb06bfdad68201a) at head `5124d2e`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $2.86.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `5124d2e`; this clears the finding ✅ — approved on `5124d2e`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3953377180.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `5124d2e`; the finding stands — The work is a coherent part of Layer 1, but it starts that layer before its explicit Layer-0 prerequisite is complete.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951926803.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `5124d2e`; this clears the finding ✅ — approved on `5124d2e`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3951513921.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `5124d2e`; the finding stands — The public Layer-1 surface is incomplete, and two action evaluation lemmas lack the expected simplification annotations.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3953378046.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `generality` —** re-reviewed on `5124d2e`; the finding stands — The core types unnecessarily bake ambient profiniteness into APIs whose data and most operations do not use it.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3945415615.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `naming` —** re-reviewed on `5124d2e`; this clears the finding ✅ — approved on `5124d2e`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3953378822.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `5124d2e`; the finding stands — The public API is documented, but one declaration docstring embeds roadmap/process provenance that will become stale.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3946624084.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting a fourth time. The rubric's own test is whether the prerequisite stage is **absent**, and Layer 0 is not absent — it is partly merged and partly in flight — while the two items this round names are, by the roadmap's own text, scheduled *after* Layer 1.

**1. The rubric's test.** `scope.md` @ `afb424e` says: "When the cited target presupposes an earlier stage or layer of the same roadmap, **confirm that stage exists on `main` or in an open PR**. Material built for a later stage while its stated prerequisite stage is **absent** is speculative … `request_changes`, naming the missing stage." The test is existence of the stage, not completion of every bullet under it.

Layer 0 on `main` today:

| Layer-0 bullet (README §4 lines 605–615) | where |
|---|---|
| `Ĥ⁰(G,M) ≃ M^G / N_G M` | `TauCeti/RepresentationTheory/Homological/TateCohomology/LowDegree.lean` (`H0IsoNormQuotient`, #5639) |
| `Ĥ^{-2}(G,ℤ) ≃ G^ab` | same file (`HNegTwoAddEquivAbelianization`) |
| inflation in positive degrees + comparison with ordinary inflation | `TateCohomology/Inflation.lean` (`infl`, `infl_comp_isoGroupCohomology_hom`, #5809) |
| two-periodicity for cyclic groups, Herbrand quotient | `TateCohomology/Periodic.lean` (#5764) |
| Herbrand multiplicativity in a short exact sequence | **open PR #5923**, "feat: prove Herbrand quotient multiplicativity" |
| coefficient functoriality, `δ`, LES, `isoGroupCohomology`/`isoGroupHomology` | imported from Mathlib, as Layer 0 bullet 1 directs ("Do not begin by writing a new `tateH` definition") |

This PR consumes exactly **one** Layer-0 output — `TateCohomology.H0IsoNormQuotient`, in `tateHZeroEquivNormQuotient` — and it is merged. It uses neither the cup product nor res/cor in any degree.

**2. The two items the finding names are Layer 3 and Layer 4 work, and Layer 3 lists Layer 1 as its own prerequisite.** README §4:

```text
### Layer 3: Tate's theorem for a class formation

*Prerequisites:* Layers 0, 1, 2.

State the generic theorem `tateTheorem` … Then obtain  tateIso (r : ℤ) : Ĥ^r(U/V,ℤ) ≃ Ĥ^{r+2}(U/V,A^V)
```

(README lines 718–729), and Layer 4 (`*Prerequisites:* Layer 3.`) is where `nakayamaNegTwo` and `artinEquiv` are constructed (lines 750–758). So the roadmap explicitly puts the generic Tate theorem **after** Layer 1. Requiring it before Layer 1 asks for a declaration whose stated type is `Ĥ^r(U/V,A^V)`, i.e. `L.TateH F r` — a type that does not exist until this PR defines `Formation` and `NormalLayer`. That is a cycle, not a sequencing error on my side.

**3. Layer 0's exit criterion is a condition on the roadmap blueprint, and it is already met there.** It reads: "`Suggested.lean` **states** `tateTheorem`, `tateIso`, `nakayamaNegTwo`, and `artinEquiv` using imported Tate groups and imported cup products, with no locally defined cohomology object" (README lines 624–626). Those four signatures are present in `Suggested.lean` today — and every one of them is stated **over the Layer-1 objects this PR adds**:

```lean
-- Suggested.lean:713
noncomputable def tateTheorem (F : Formation G) (L : NormalLayer G) (u : L.H F 2) …
-- Suggested.lean:756
noncomputable def tateIso (cf : ClassFormation F) (L : NormalLayer G) (r : ℤ) : …
-- Suggested.lean:813 / 820
noncomputable def nakayamaNegTwo (cf : ClassFormation F) (L : NormalLayer G) : …
noncomputable def artinEquiv (cf : ClassFormation F) (L : NormalLayer G) : …
```

`Formation`, `NormalLayer` and `L.H F 2` are precisely `Formation`, `NormalLayer` and `NormalLayer.H` from this PR. Landing the generic Tate theorem "before adding the formation layer", as the fix asks, is therefore not possible in Lean: its statement does not typecheck without this PR.

**4. The pipeline's own record.** This identical finding, judged by this rubric at this rubrics sha `afb424e`, has been contested and **cleared three times** on this PR: [`4199345`](https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3945858492), [`7a878f1`](https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3951945605), [`128c915`](https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3952510498) — the last with the reasoning "Its actual Layer-0 dependency is the already-present degree-zero Tate identification; the unfinished Layer-0 operations are only needed by later Layer-1 adapters absent from this PR." Nothing in the diff between `128c915` and `5124d2e` touches imports, dependencies or the roadmap claim: the three commits since are `7b279ee` (make `Formation` an abbreviation, at the `reuse` rubric's request), `572d8d6` (name the profinite binders with a leading underscore) and `5124d2e` (a docstring sentence). The dependency situation the rubric approved at `128c915` is unchanged at `5124d2e`.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting. Making this change would re-open two findings that are ⛔/✅ on this same PR at this same head, and the rubric itself routes the question elsewhere.

**1. `reuse` approved this file at this exact head *because of* these three binders.** At head `572d8d6` `reuse` posted ⛔ **block**:

> `Formation` is a second public name for exactly `TauCeti.SmoothDiscreteTopRep ℤ G`, with `module` and `smooth` merely restating its existing projections. _Fix:_ Delete the alias and projection wrappers, and parameterize the layer API directly by `SmoothDiscreteTopRep ℤ G`.

It was cleared at `5124d2e` — [comment 3953857252](https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3953857252), on the current scoreboard as ✅ "existing quotient-invariants and low-degree Tate APIs are reused where their types fit" — on the argument that `Formation G` "adds three instance binders that [`SmoothDiscreteTopRep`] does not have". Strip `IsTopologicalGroup`, `CompactSpace` and `TotallyDisconnectedSpace` from `Formation` and the abbreviation's body **and** binder list are then character-for-character `SmoothDiscreteTopRep.{0,0,0} ℤ G`: it becomes exactly the "second public name for exactly" the same type that `reuse` blocked on. The two requests cannot both be satisfied.

**2. `correctness` ⛔-blocked this PR to *require* these binders, and its approval at this head cites them.** Round 1 (head `3bc86a02`, rubrics `afb424e`):

> `Formation` and `NormalLayer` require only an arbitrary topology on `G`; consequently `Formation.smooth` does not ensure a continuous group action, and `NormalLayer` can have an infinite `Gal` whose advertised `degree` is `0`. _Fix:_ Restore the roadmap's `IsTopologicalGroup G`, `CompactSpace G`, and `TotallyDisconnectedSpace G` assumptions on these structures.

Commit `a465de8` is that fix. On the current scoreboard `correctness` is ✅ with "The new formation, level, finite-layer representation, norm, and Tate-degree-zero identification faithfully model the roadmap objects." The requested edit reverts `a465de8`.

**3. The rubric routes this to `correctness`, which has ruled.** `generality.md` @ `afb424e` opens: "This is API quality; **leave assumptions that change the claim to correctness**." For a *bundled definition* the instance binders are not hypotheses of a claim that could be weakened without loss — they fix which objects the name `Formation G` denotes. Dropping them changes what a formation *is*, which is the correctness question, and correctness has answered it twice.

**4. `TotallyDisconnectedSpace` is not idle.** It is what makes the open subgroups of `G` a neighbourhood basis of `1`, i.e. what makes the family of open subgroups the distinguished family of the Artin–Tate definition, and hence `Formation.exists_mem_level` the genuine Artin–Tate smoothness condition rather than a vacuous one over, say, a connected compact `G` — where a `Formation` would carry a single junk level `A^G`. That vacuity is exactly what round-1 `correctness` blocked on.

**5. The roadmap pins the binder list verbatim.** `TauCetiRoadmap/ClassFieldTheory/Suggested.lean:95-98` and `:113-114`:

```lean
structure Formation (G : Type) [Group G] [TopologicalSpace G] [IsTopologicalGroup G]
    [CompactSpace G] [TotallyDisconnectedSpace G] where
…
structure NormalLayer (G : Type) [Group G] [TopologicalSpace G] [IsTopologicalGroup G]
    [CompactSpace G] [TotallyDisconnectedSpace G] where
```

and README §1 owns "the modern topological form of an Artin–Tate formation: **a profinite group** `G`, a discrete continuous `G`-module `A`, its levels `A^U` …". Weakening that is a change to the human-owned roadmap, which this repository may not make.

**6. On "the body is only `SmoothDiscreteTopRep`".** That body is itself the `reuse` rubric's requirement (commit `7b279ee`, turning the structure into an abbreviation). The consequence — the binders being unmentioned in the *body* of an abbreviation — is already handled the way the repo handles a deliberately unused argument: commit `572d8d6` names them `_tg`, `_cs`, `_td` and documents why in a comment immediately above the declaration. `lint-env` is green on that form; renaming was the fix for `unusedArguments`, which does not fire on a structure and so only appeared once `reuse` required the abbreviation.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: Contesting both findings.

**1. "The module ends without the roadmap-required finite quotient system or abelian-layer API."**

The ten declarations the fix names are three further topics, and adding them here would draw a `scope` **block**. `scope.md` @ `afb424e`: "`block` and ask for a split when the PR is more than one topic: … several unrelated targets at once." The `scope` rubric has judged *this* PR a single coherent unit at four heads — most recently on the current scoreboard: "The work is a coherent part of Layer 1" — and its Layer-1 bullets are separate items in the roadmap's own list (README §4 lines 641–661):

- `subgroupLayer`, `subgroupGalEquiv`, `degree_subgroupLayer`, `subgroupRestriction`, `relativeDegree_subgroupRestriction` and the restricted-representation identification are the roadmap's bullet "**the finite quotient system**". Two of the five cannot even be *stated* here: `Suggested.lean:515` has `subgroupRestriction (L : NormalLayer G) (H : Subgroup L.Gal) : LayerRestriction (L.subgroupLayer H) L` and `:520` has `relativeDegree_subgroupRestriction … : (L.subgroupRestriction H).relativeDegree = H.index`, so both need the `LayerRestriction` structure (`Suggested.lean:314`) and `LayerRestriction.relativeDegree` (`:350`) — the roadmap's separate "restriction … adapters" bullet, whose `cohomologyRes`/`cohomologyCor`/`tateRes`/`tateCor` consume the Layer-0 res/cor item that has not landed.
- `IsAbelianClassFieldLayer` and its two quotient characterizations are the roadmap's bullet "**the abelian layers among them**", which turns on `(commutator G).topologicalClosure` and its relation to Mathlib's `TopologicalAbelianization` — a development with no overlap with levels, norms or Tate `H⁰`.
- `maximalAbelianLayer` with `le_maximalAbelianLayer`, `isAbelianClassFieldLayer_maximalAbelianLayer` and `maximalAbelianLayer_le` is the roadmap's bullet "**the canonical maximal abelian sublayer**".

The PR description already says these are deliberately deferred and names them. The rubric's own instruction is "Expose what later stages of the roadmap need, the explicit products of the roadmap, and genuinely reusable general results" — that governs whether what this PR *delivers* is exposed, and it is: every object this PR builds (`Formation`, `level`, `NormalLayer`, `Gal`, `degree`, `rep`, `H`/`TateH`/`TrivialTateH`, `norm`, `normSubgroup`, `NormQuotient`, `normQuotientMk`, `groundLevelEquiv`, `tateHZeroEquivNormQuotient`) is public and carries its characteristic lemmas. Nothing here is `private`, hidden behind an unexposed body, or reachable only by unfolding. The finding is not that the delivered surface is incomplete but that a different topic has not been delivered, which is a `scope` question and one `scope` has answered the other way.

**2. `@[simp]` on `toRep_ρ_apply` and `rep_ρ_mk_apply_coe`: the attribute makes CI fail.**

Re-checked at the current head. I added exactly the two requested attributes, appended `#lint only simpNF` to the module, and ran `lake env lean TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean`:

```
TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:476:0: error: -- Found 2 errors in 59 declarations (plus 44 automatically generated ones) in the current file with 1 linters

/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
Please change the lemma to make sure their left-hand sides are in simp normal form.
To learn about simp normal forms, see
https://leanprover-community.github.io/extras/simp.html#simp-normal-form
and https://lean-lang.org/doc/reference/latest/The-Simplifier/Simp-Normal-Forms/.
This linter can be disabled with `@[nolint simpNF]`. -/
#check @TauCeti.ClassFieldTheory.Formation.toRep_ρ_apply /- simp can prove this:
  by simp only [*, @ofDistribMulAction_apply_apply, @TopRep.distribMulAction_smul]
One of the lemmas above could be a duplicate.
If that's not the case try reordering lemmas or adding @[priority]. -/
#check @TauCeti.ClassFieldTheory.NormalLayer.rep_ρ_mk_apply_coe /- Left-hand side simplifies from
  ↑(((L.rep F).ρ ↑u) x)
to
  ↑(((L.groundRep F) u) x)
using
  simp only [*, @ofQuotient_coe_apply]
Try to change the left-hand side to the simplified term! -/
```

`groundRep_apply_coe`, which the finding contrasts them with, *is* `@[simp]` and passes — the difference is real: `toRep_ρ_apply` is provable by the existing simp set (`ofDistribMulAction_apply_apply`, `TopRep.distribMulAction_smul`), and `rep_ρ_mk_apply_coe`'s left-hand side is not in simp normal form because `ofQuotient_coe_apply` already rewrites it. Both are exactly what `simpNF` forbids, and this package builds with `warningAsError = true` (`lakefile.toml:37`), so the requested annotations turn the build red. The repository rules forbid silencing a linter to push a change through, so the fix as written cannot be made; the two lemmas remain as named characterizations, which is what lets downstream proofs avoid unfolding. This is the same evidence that cleared this finding at [`7a878f1`](https://github.com/TauCetiProject/TauCeti/pull/5853#discussion_r3951945873); the attributes have been removed again and are not in the pushed head.

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `a5b96ceca451`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `a5b96ce`; this clears the finding ✅ — approved on `a5b96ce`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3953377180.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `scope` —** re-reviewed on `a5b96ce`; this clears the finding ✅ — approved on `a5b96ce`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3954082644.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `a5b96ce`; this clears the finding ✅ — approved on `a5b96ce`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3954083070.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `generality` —** re-reviewed on `a5b96ce`; this clears the finding ✅ — approved on `a5b96ce`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3954082973.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Basic.lean:1]: **Re: your reply on `naming` —** re-reviewed on `a5b96ce`; this clears the finding ✅ — approved on `a5b96ce`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3953378822.</sub>
